US03987052
In the manner given in Example 2, 3,6,8-trimethyl-1,3-dihydro-5-(o-chlorophenyl)- 2H-1,4-benzodiazepine-2-thione is heated in ethanol with acetic acid hydrazide and the resulting product heated to 250° C. to give 1,4,7,9-tetramethyl-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 3,6,8-trimethyl-1,3-dihydro-5-(o-chlorophenyl)- 2H-1,4-benzodiazepine-2-thione | CC1C(NC2=C(C(=N1)C1=C(C=CC=C1)Cl)C(=CC(=C2)C)C)=S | C18H17ClN2S
reactant | acetic acid hydrazide | C(C)(=O)NN | C2H6N2O
solvent | ethanol | C(C)O | C2H6O
product | 1,4,7,9-tetramethyl-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | CC1=NN=C2N1C1=C(C(=NC2C)C2=C(C=CC=C2)Cl)C(=CC(=C1)C)C | C20H19ClN4
